US04220804
2,2-Dinitro-3-phenylbutane
To a solution of 4.03 g (0.025 mol) of 2-nitro-1-phenyl-1-propene dissolved in 30 ml of dry THF (cooled to -40° C. with an acetronitrile-dry ice bath) and under a positive nitrogen atmosphere was added with stirring 22 ml (0.05 mol) of a 5% ether solution of methyllithium. The resulting solution was stirred for 1 h at -40° C. followed by the addition of 4.9 g (0.025 mol) of tetranitromethane. The solution was then allowed to warm to room temperature and stirred an additional hour. The resulting product was isolated and purified as described in Example 1 above, yielding 3.4 g (60% yield) of an analytically pure white crystalline product, mp 76°-78° C. A similar procedure was used for the preparation of derivatives wherein R3 (see structure above or scheme) was CH3 (CH2)3 and R2 was H and wherein R3 was CH3 and R2 was CH3 (see scheme).

reactant | 2-nitro-1-phenyl-1-propene | 0.025 mol, 4.03 g | [N+](=O)([O-])C(=CC1=CC=CC=C1)C | C9H9NO2
reactant | ether | CCOCC | C4H10O
reactant | methyllithium | C[Li]
reactant | tetranitromethane | 0.025 mol, 4.9 g | [N+](=O)([O-])C([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | CN4O8
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2,2-Dinitro-3-phenylbutane | 60% yield | [N+](=O)([O-])C(C)(C(C)C1=CC=CC=C1)[N+](=O)[O-] | C10H12N2O4
